US05599833
Preparation of [6- (n-Butylsulfenoyl) -2-[4- (n-butylsulfonoyl )phenyl]benzo[b]thien-3-yl][4-[2-(1piperidinyl ) ethoxy]-phenyl]methanone, Hydrochloride
5.4g of [6-(n-Butylsulfonoyl)-2-[4-(n-butylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1piperidinyl)ethoxy]-phenyl]methanone was dissolved in ethyl acetate (EtOAc) and a solution of ether, saturated with HCl, was added until no more precipitate was formed. The liquid was decanted off and the solid was triturated with ether. The title compound was crystallized from hot EtOAc to afford 3.74 g, as a white powder.

reactant | [6-(n-Butylsulfonoyl)-2-[4-(n-butylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1piperidinyl)ethoxy]-phenyl]methanone | 5.4g | C(CCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCC)C1 | C36H43NO6S3
reactant | ether | CCOCC | C4H10O
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [6- (n-Butylsulfenoyl) -2-[4- (n-butylsulfonoyl )phenyl]benzo[b]thien-3-yl][4-[2-(1piperidinyl ) ethoxy]-phenyl]methanone, Hydrochloride | Cl.C(CCC)SC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCC)C1 | InChI=1S/C36H43NO4S3.ClH/c1-3-5-24-42-30-16-19-32-33(26-30)43-36(28-12-17-31(18-13-28)44(39,40)25-6-4-2)34(32)35(38)27-10-14-29(15-11-27)41-23-22-37-20-8-7-9-21-37;/h10-19,26H,3-9,20-25H2,1-2H3;1H
